US07297704B2
Step 5: 8-Formyl-6,7,8,9-tetrahydrodibenzo[b,d]thiophene-2-carbonitrile
To a room temperature suspension of 8-(hydroxymethyl)-6,7,8,9-tetrahydrodibenzo[b,d]thiophene-2-carbonitrile (0.24 g, 1 mmol) in 4 mL CH2Cl2 was added TFA (0.5 mL). To the resulting homogeneous solution was added Dess-Martin periodinane (0.243 g, 1 mmol). Precipitates were formed after reaction mixture was stirred for 10 minutes. The resulting suspension was cooled in ice water, and diluted with EtOAc (15 mL), then was treated with 10 mL of 1.25 N NaOH (aq.) solution. After stirring for a few minutes, the organic layer was collected, washed with water, then brine, then was dried over MgSO4), filtered, and concentrated. Purification by chromatography on silica gel (25% EtOAc in hexane) afforded 0.14 g (58%) of the title compound as a white solid: mp 172-173° C.; MS (ES) m/z=241 [M]+.

reactant | 8-(hydroxymethyl)-6,7,8,9-tetrahydrodibenzo[b,d]thiophene-2-carbonitrile | 1 mmol, 0.24 g | OCC1CCC2=C(C3=C(S2)C=CC(=C3)C#N)C1 | C14H13NOS
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Dess-Martin periodinane | 1 mmol, 0.243 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1.25 N, 10 mL | [OH-].[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 8-Formyl-6,7,8,9-tetrahydrodibenzo[b,d]thiophene-2-carbonitrile | 0.14 g, 58% | C(=O)C1CCC2=C(C3=C(S2)C=CC(=C3)C#N)C1 | C14H11NOS
